### ISSUE TITLE
Reducing polynomial evaluation in a theorem

### ISSUE THREAD

**Issue by tomaz1502** [Verified-zkEVM/CompPoly#140]
Maybe I'm misunderstanding something, but shouldn't this be possible?

```lean4
import CompPoly

open CompPoly

#eval CPolynomial.eval (1 : Rat) CPolynomial.X -- 1 (works, as expected)

example : CPolynomial.eval (1 : Rat) CPolynomial.X = 1 := rfl -- fails
```

In general, how can I obtain a proof that evaluating a polynomial at a point results in a particular value? In this case I can get by with:

```lean4
example : CPolynomial.eval (1 : Rat) CPolynomial.X = 1 := by
  simp [CPolynomial.eval, CPolynomial.Raw.eval, CPolynomial.Raw.eval₂, CPolynomial.X, CPolynomial.Raw.X]
```

But for more complex examples it won't work, for instance:

```lean4
example : CPolynomial.eval (1 : Rat) (CPolynomial.X - CPolynomial.C 2) = -1 := by
  simp [CPolynomial.eval, CPolynomial.Raw.eval, CPolynomial.Raw.eval₂, CPolynomial.X, CPolynomial.Raw.X, CPolynomial.C, CPolynomial.Raw.C, CPolynomial.Raw.trim, CPolynomial.Raw.lastNonzero] -- fails
```

**Comment by tomaz1502** [comment]
Sorry, I realize now that the problem is on the rational numbers, not on `CPolynomial`.
